US04016275
To a slurry of 5.0 g (0.029 mol) of 2-mercapto-4-hydroxy-6-propyl pyrimidine in 50 ml of 1,2-dimethoxyethane was added 6.9 g (0.029 mol) of 1,1,2,2-tetrachloroethylsulfenyl chloride. The resulting mixture was heated at the reflux temperature for 10 minutes, and then filtered while still hot. The solvent was removed by evaporation under reduced pressure to give 8.8 g of 1,1,2,2-tetrachloroethylsulfenylmercapto)-4-hydroxy-6-propyl pyrimidine hydrochloride having a melting point of 142°-144° C. Analysis was as follows: %Cl, calc., 43.8, found 43.0; %S, calc. 15.8, found 15.5.

reactant | 2-mercapto-4-hydroxy-6-propyl pyrimidine | 0.029 mol, 5.0 g | SC1=NC(=CC(=N1)O)CCC | C7H10N2OS
reactant | 1,1,2,2-tetrachloroethylsulfenyl chloride | 0.029 mol, 6.9 g | ClC(C(Cl)Cl)(SCl)Cl | C2HCl5S
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 4-hydroxy-6-propyl pyrimidine hydrochloride | Cl.OC1=NC=NC(=C1)CCC | InChI=1S/C7H10N2O.ClH/c1-2-3-6-4-7(10)9-5-8-6;/h4-5H,2-3H2,1H3,(H,8,9,10);1H
